US05100895
5-(5-Cyclopropyl-1,2,4-oxadiazol-3-yl)-2,3-dihydro-12-isopropoxydiimidazo[1,5-a:1',2'-c]quinazoline
Sodium (30 mg, 1.3 mmol) was dissolved in 20 ml of dry isopropyl alcohol. 5-(5-Cyclopropyl-1,2,4-oxadiazol-3-yl)-12-fluoro-2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline (0.2 g, 0.6 mmol) was added and the mixture was heated at reflux for 10 min. Then the solvent was evaporated in vacuo and the residue was triturated with 25 ml of water. The insoluble material was filtered off and dried to give the title compound as pale crystals, m.p. 211°-214° C. Yield 0.17 g (75%). (Compound 43).

reactant | Sodium | 1.3 mmol, 30 mg | [Na] | Na
reactant | 5-(5-Cyclopropyl-1,2,4-oxadiazol-3-yl)-12-fluoro-2,3-dihydrodiimidazo[1,5-a:1',2'-c]quinazoline | 0.6 mmol, 0.2 g | C1(CC1)C1=NC(=NO1)C=1N=CN2C1N1C(C=3C(=CC=CC23)F)=NCC1 | C17H13FN6O
reactant | isopropyl alcohol | 20 ml | C(C)(C)O | C3H8O
product | 5-(5-Cyclopropyl-1,2,4-oxadiazol-3-yl)-2,3-dihydro-12-isopropoxydiimidazo[1,5-a:1',2'-c]quinazoline | C1(CC1)C1=NC(=NO1)C=1N=CN2C1N1C(C=3C(=CC=CC23)OC(C)C)=NCC1 | C20H20N6O2
